US05324711
Preparation of benzyl 3-chloro-4-nitrophenyl ether
A mixture of 3-chloro-4-nitrophenol (10 g, 0.058 mole), benzyl bromide (11.8 g, 0.069 mole), and potassium carbonate (16 g, 0.116 mole) in acetone is stirred, heated at reflux temperature for 17 hours, cooled and filtered. The filtrate is concentrated in vacuo to give a solid residue which is recrystallized from absolute ethanol to give the title compound, mp 82°-84.5° C., identified by elemental and NMR analyses.

reactant | 3-chloro-4-nitrophenol | 0.058 mole, 10 g | ClC=1C=C(C=CC1[N+](=O)[O-])O | C6H4ClNO3
reactant | benzyl bromide | 0.069 mole, 11.8 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | potassium carbonate | 0.116 mole, 16 g | C([O-])([O-])=O.[K+].[K+]
solvent | acetone | CC(=O)C | C3H6O
product | benzyl 3-chloro-4-nitrophenyl ether | ClC=1C=C(C=CC1[N+](=O)[O-])OCC1=CC=CC=C1 | C13H10ClNO3
